US08008340B2
Piperidin-1-yl-[3-(pyridin-2-ylsulfanyl)-1H-indol-2-yl]-methanone (Iah)
Treat 1H-indole-2-carboxylic acid 3 (X═H, 750 mg, 4.66 mmol) with piperidine (3.0 equiv., 1.4 mL, 13.98 mmol) as described in General Synthetic Procedure VIa to afford 1H-indol-2yl-piperidin-1-yl-methanone 8 (X═H, R4=piperidin-1-yl; 979 mg, 92%) as a white solid. Treat 1H-indol-2yl-piperidin-1-yl-methanone (114 mg, 0.50 mmol) with 2,2′-dithiopyridine (1.3 equiv., 143 mg) as described in General Synthetic Procedure VIIa to afford the title compound Iah (117 mg, 69%) as a pale yellow solid, m/z=338 (M+1).

reactant | 1H-indol-2yl-piperidin-1-yl-methanone | 0.50 mmol, 114 mg | N1C(=CC2=CC=CC=C12)C(=O)N1CCCCC1 | C14H16N2O
reactant | 2,2′-dithiopyridine | 143 mg, 1.3 equiv. | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
product | Piperidin-1-yl-[3-(pyridin-2-ylsulfanyl)-1H-indol-2-yl]-methanone | N1(CCCCC1)C(=O)C=1NC2=CC=CC=C2C1SC1=NC=CC=C1 | C19H19N3OS
